US07173045B2
A mixture of the diastereoisomers of (4-aminomethyl-1-phenylcyclohexyl)dimethylamine (465 mg, 2.0 mmol.) and 4-(4,6-dimethoxy-1,3,5-triazin-2-yl)-4-methylmorpholinium chloride (830 mg, 3 mmol.) was added to a solution of 3-indol-1-ylpropionic acid (383 mg, 2.0 mmol.) in abs. methanol (35 ml), and stirring was carried out for 2 d at RT. For working up, the mixture was concentrated, water (15 ml) was added to the residue, the pH was adjusted to 11 with 5M NaOH and extraction was carried out with EE (4×15 ml). The combined extracts were dried, filtered and concentrated. A mixture of the diastereoisomeric bases of the target product was obtained as the residue and was separated by flash chromatography on silica gel (70 g) and purified (eluant: 1300 ml of methanol/EE 1:1). 254 mg of the non-polar diastereoisomer of N-(4-dimethylamino-4-phenylcyclohexylmethyl)-3-indol-1-ylpropionamide were obtained in the form of a viscous oil. 226 mg (0.56 mmol.) thereof were dissolved in abs. ethanol (3 ml) and added dropwise at RT, with stirring, to citric acid (108 mg, 0.56 mmol.) dissolved in hot ethanol (1 ml). After stirring for 1 h at RT, the white precipitate that had formed was filtered off with suction, washed with cold ethanol (1 ml) and with diethyl ether (3×1 ml) and dried in vacuo. 262 mg of the corresponding citrate were obtained (light-beige solid, m.p. 192–194° C.).

reactant | (4-aminomethyl-1-phenylcyclohexyl)dimethylamine | 2.0 mmol, 465 mg | NCC1CCC(CC1)(C1=CC=CC=C1)N(C)C | C15H24N2
reactant | 4-(4,6-dimethoxy-1,3,5-triazin-2-yl)-4-methylmorpholinium chloride | 3 mmol, 830 mg | [Cl-].COC1=NC(=NC(=N1)OC)[N+]1(CCOCC1)C
reactant | 3-indol-1-ylpropionic acid | 2.0 mmol, 383 mg | N1(C=CC2=CC=CC=C12)CCC(=O)O | C11H11NO2
solvent | methanol | 35 ml | CO | CH4O
product | N-(4-dimethylamino-4-phenylcyclohexylmethyl)-3-indol-1-ylpropionamide | CN(C1(CCC(CC1)CNC(CCN1C=CC2=CC=CC=C12)=O)C1=CC=CC=C1)C | C26H33N3O
